US08030334B2
A flask is charged with 5-bromo-pyridin-3-ol (0.200 g, 1.126 mmol), potassium carbonate (0.212 g, 1.487 mmol) and acetone (3 mL). Methanesulfonyl chloride (0.143 g, 1.239 mmol) is then added dropwise. After 2 h, an other portion of methanesulfonyl chloride (0.071 g, 0.61 mmol) is added. After overnight stirring, the suspension is concentrated, diluted with ethyl acetate and filtered through a pad of silica gel. The filtrate is concentrated in vacuo to give a residue, which is purified by silica gel flash chromatography (heptane-ethyl acetate, 4:1 to 7:3) to give a mixture of product and starting material. The fractions are combined, washed three times with saturated aqueous sodium bicarbonate and dried over MgSO4. Concentration in vacuo gives methanesulfonic acid 5-bromo-pyridin-3-yl ester as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 3.25 (s, 3H), 7.86 (m, 1H), 8.52 (d, J=2.3 Hz, 1H), 8.67 (d, J=1.8 Hz, 1H).

reactant | 5-bromo-pyridin-3-ol | 1.126 mmol, 0.200 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | potassium carbonate | 1.487 mmol, 0.212 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methanesulfonyl chloride | 1.239 mmol, 0.143 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.61 mmol, 0.071 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | methanesulfonic acid 5-bromo-pyridin-3-yl ester | BrC=1C=C(C=NC1)OS(=O)(=O)C | C6H6BrNO3S
